Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
morphine / Demerol
 
Attending: ___.
 
Chief Complaint:
lumbar spinal stenosis
 
Major Surgical or Invasive Procedure:
___ - L4-L5 laminectomy decompression with Dr ___

 
___ of Present Illness:
The patient is a pleasant ___ lady who is
seen today for a followup visit after MRI of her lumbar spine. 
She continues to have severe right L5 and S1 radicular symptoms. 

She is unable to walk even for a short distance.  The pain has
been making her miserable.  Her evaluation of her lumbar spine,
MRI shows presence of L4-5 severe spinal stenosis adjacent to 
her
previous decompression.  Considering this, she will need 
surgical
treatment in the form of L4-5 laminectomy.  The risks associated
with the surgery, which include but not limited to infection,
spinal fluid leak, persistent or worsening of symptoms, need for
further surgery, instability, DVT, stroke, blindness, death,
heart attack and other unforeseen medical and surgical
complications.  The ___ rehabilitation protocol,
surgical procedure details were explained to her.  She
understands the risks and wants to undergo the surgical
procedure.  I would like to see her on the day of surgery.  She
has to get cleared by her primary care physician for the 
surgical
procedure.
 
Past Medical History:
Positive for lumbar laminectomy and
cervical laminectomy and fusion along with his cervical ACDF. 
She has had major heart issues as well.  She smokes about one
pack of cigarettes per day.
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
NAD, comfortable
Dressing c/d/I
Full strength in bilateral lower extremities
Sensation fully intact distally
 
Pertinent Results:
___ 06:30AM   WBC-8.8 RBC-3.14*# HGB-8.8* HCT-28.9* MCV-92 
MCH-28.0 MCHC-30.4* RDW-15.5 RDWSD-51.8*
___ 06:30AM   CALCIUM-7.6* PHOSPHATE-3.2 MAGNESIUM-1.9
___ 06:30AM   PLT COUNT-118*
 
Brief Hospital Course:
The patient was admitted to the Spine surgery service on the day 
of surgery and underwent the operative procedure. she tolerated 
this well and was taken to PACU in good condition.
She was evaluated by ___ and determined discharge to home was 
appropriate.
JP drain was removed POD1 and foley catheter was removed POD2.
At the time of discharge, she was tolerating oral pain 
medications, ambulating independently and voiding. Her dressing 
was clean and dry, and she had full strength in her lower 
extremities.
She was given appropriate discharge instructions including her 
follow-up appointment.
 
Medications on Admission:
fluoxetine
albuterol inhaler PRN
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Bisacodyl 10 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  HYDROmorphone (Dilaudid) 2 mg PO Q4H  
5.  Senna 8.6 mg PO BID  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob or wheezing  
7.  FLUoxetine 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar spinal stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You have undergone the following operation:

Lumbar Decompression Without Fusion

 

Activity:
 You should not lift anything greater than 10 lbs for 2 weeks. 
You will be more comfortable if you do not sit or stand more 
than ~45 minutes without moving around.

 

Rehabilitation/ Physical Therapy:

___ times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate.
 Limit any kind of lifting.

Diet: 

Eat a normal healthy diet. You may have some constipation after 
surgery.  You have been given medication to help with this 
issue.

 

Brace:
 You may have been given a brace. This brace is to be worn when 
you are walking. You may take it off when sitting in a chair or 
lying in bed.

 

Wound Care: Remove the dressing in 2 days.
 If the incision is draining cover it with a new sterile 
dressing.  If it is dry then you can leave the incision open to 
the air.  Once the incision is completely dry (usually ___ days 
after the operation) you may take a shower. Do not soak the 
incision in a bath or pool.  If the incision starts draining at 
any time after surgery, do not get the incision wet. Cover it 
with a sterile dressing and call the office.

 

You should resume taking your normal home medications. 

 

You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.

 You can either have them mailed to your home or pick them up at 
the clinic located on ___ 2.  We are not allowed to call in 
or fax narcotic prescriptions (oxycontin, oxycodone, percocet) 
to your pharmacy.  In addition, we are only allowed to write for 
pain medications for 90 days from the date of surgery.

 

Follow up:

Please Call the office and make an appointment for 2 weeks after 
the day of your operation if this has not been done already.

 

At the 2-week visit we will check your incision, take baseline 
X-rays and answer any questions. We may at that time start 
physical therapy.

 

We will then see you at 6 weeks from the day of the operation 
and at that time release you to full activity.

 

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

 

 
Followup Instructions:
___